US07812021B2
First step: To a stirred solution of commercially available (S)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (2.38 g, 12 mmol) in CH2Cl2 (25 mL) at 0° C. were added pyridine (1.91 mL, 24 mmol) and methanesulfonyl chloride (0.92 mL, 12 mmol). Stirring was continued at RT overnight, the reaction was poured onto water and extracted with CH2Cl2. The combined organic phases were dried on Na2SO4 and concentrated under vacuo. The crude product was dissolved in CH2Cl2 (20 mL) and TFA (4 mL) was added. After 2 hours at RT, the volatiles were removed under vacuo, the crude was dissolved in CH2Cl2 and washed with aq. NaHCO3 (until pH=8). The organic phase was dried on Na2SO4 and concentrated under vacuo to yield 0.83 g (39%) of (s)-1-methanesulfonyl-2-methyl-piperazine as a light yellow oil.

reactant | (S)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 12 mmol, 2.38 g | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C | C10H20N2O2
reactant | pyridine | 24 mmol, 1.91 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 12 mmol, 0.92 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (s)-1-methanesulfonyl-2-methyl-piperazine | 0.83 g, 39% | CS(=O)(=O)N1[C@H](CNCC1)C | C6H14N2O2S
